US03997557
A solution of 5.77 g (0.04 mole) of diisopropylaminoethylamine and 9.3 g (0.04 mole) of 2-(p-hydroxyphenacyl) cyclohexanone in glacial acetic acid is refluxed under nitrogen for 14 hours, then cooled to ambient temperature and diluted with water and dilute hydrochloric acid. The aqueous solution is washed with ether, basified with 10% sodium carbonate and extracted with ether. After drying the ether solution over magnesium sulfate, the ether is removed to give a pale yellow solid. The solid is recrystallized from an ether-petroleum ether mixture to give pale yellow crystals of 1-(2-diisopropylaminoethyl)-2-(p-hydroxyphenyl)-4,5,6,7-tetrahydroindole as pale yellow crystals, m.p. 112°-114.5° C.

reactant | diisopropylaminoethylamine | 0.04 mole, 5.77 g | C(C)(C)N(C(C)C)CCN | C8H20N2
reactant | 2-(p-hydroxyphenacyl) cyclohexanone | 0.04 mole, 9.3 g | OC1=CC=C(C(CC2C(CCCC2)=O)=O)C=C1 | C14H16O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | hydrochloric acid | Cl | ClH
product | 1-(2-diisopropylaminoethyl)-2-(p-hydroxyphenyl)-4,5,6,7-tetrahydroindole | C(C)(C)N(CCN1C(=CC=2CCCCC12)C1=CC=C(C=C1)O)C(C)C | C22H32N2O
